US06169091A
4-[3-Chloro-4-(2-methoxybenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.102 g, 0.60 mmol) and 3-chloro-4-(2-methoxybenzyloxy)aniline (prepared according to the published method: WO 96/09294) (0.161 g, 0.65 mmol) were reacted in 2-propanol (4 ml) for 1.25 hours, according to Procedure A. The product was obtained as pale cream prisms (0.203 g, 78%) with m.p. 210-212° C.; (Found: C, 55.28; H, 4.00; N, 9.44. C20H16ClN3O2S.HCl requires: C, 55.31; H, 3.92; N, 9.67%); δH [2H6]-DMSO 11.19 (1H, br s, NH), 8.88 (1H, s, 2-H), 8.48 (1H, d, J 7, 6 H or 7 H) 7.87 (1H, d, J 5, 2′-H), 7.55-7.62 (2H, m, 6′-H, 4″-H), 7.48 (1H, d, J 7, 6H or 7H), 7.28-7.40 (2H, m, 5′-H, 6″-H), 7.09 (1H, d, J 9, 3″-H), 7.00 (1H, t, J 9, 5″-H), 5.22 (2H, s, CH2), 3.85 (3H, s, OCH3).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 0.60 mmol, 0.102 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 3-chloro-4-(2-methoxybenzyloxy)aniline | ClC=1C=C(N)C=CC1OCC1=C(C=CC=C1)OC | C14H14ClNO2
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
product | 4-[3-Chloro-4-(2-methoxybenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride | 0.203 g, 78% | Cl.ClC=1C=C(NC=2C3=C(N=CN2)C=CS3)C=CC1OCC1=C(C=CC=C1)OC | InChI=1S/C20H16ClN3O2S.ClH/c1-25-17-5-3-2-4-13(17)11-26-18-7-6-14(10-15(18)21)24-20-19-16(8-9-27-19)22-12-23-20;/h2-10,12H,11H2,1H3,(H,22,23,24);1H
